US04329367
The starting material is prepared as follows: To the stirring mixture of 244 g of p-hydroxybenzaldehyde, 360 g of potassium carbonate, 32 g of potassium iodide, 1.2 lt of 95% aqueous ethanol and 160 ml of water is added slowly 367 g of m-chlorobenzyl chloride. The mixture is stirred at reflux for four hours, cooled to 80° and 2 lt of warm water are added while stirring. The mixture is cooled, the precipitate collected, washed with water and recrystallized from methanol, to afford the 4-(3-chlorobenzyloxy)-benzaldehyde melting at 51°-54°.

reactant | p-hydroxybenzaldehyde | 244 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 360 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 32 g | [I-].[K+]
reactant | m-chlorobenzyl chloride | 367 g | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
solvent | water | O | H2O
solvent | water | 160 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 4-(3-chlorobenzyloxy)-benzaldehyde | ClC=1C=C(COC2=CC=C(C=O)C=C2)C=CC1 | C14H11ClO2
